US05202351
To 10.7 g (30 mmol) of N-(2-(3,4-methylenedioxyphenyl)hexyl)-phthalimide, were added 240 ml of methanol and 3.75 ml (60 mmol) of hydrazine (mono hydrate) and the mixture was refluxed for two hours. After cooled to room temperature, the solvent was evaporated off from the reaction mixture and residue was added with 15% aqueous sodium hydroxide and extracted with ether. The organic layer was washed with saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. By evaporating off the solvent, 5.0 g of oily (+)-2-(3,4-methylenedioxyphenyl)-hexylamine was obtained (Yield: 76%).

reactant | N-(2-(3,4-methylenedioxyphenyl)hexyl)-phthalimide | 30 mmol, 10.7 g | C1OC=2C=C(C=CC2O1)C(CN1C(C=2C(C1=O)=CC=CC2)=O)CCCC | C21H21NO4
reactant | hydrazine | 60 mmol, 3.75 ml | NN | H4N2
solvent | methanol | 240 ml | CO | CH4O
product | (+)-2-(3,4-methylenedioxyphenyl)-hexylamine | 5.0 g, Yield: 76% | C1OC=2C=C(C=CC2O1)C(CN)CCCC | C13H19NO2
